US04156097
1-Cyclopentenol (0.30 g), isopropanol (0.40 g), and an aqueous solution of 0.020 g of tetrabutylammonium hydrogen sulfate in 0.25 g of water were mixed, and the two-phase system was stirred vigorously at 40° C. for 4 hours. Acetone was then added to homogenize the mixture, and it was analyzed by gas chromatography. Peaks corresponding to about a 6% yield of 2-cyclopentenyl isopropyl ether and about a 12% yield of 2-cyclopentenol were observed along with a concomitant peak for the co-product acetic acid. No bis-(2-cyclopentenyl) ether was formed.

reactant | 1-Cyclopentenol | 0.30 g | C1(=CCCC1)O | C5H8O
reactant | isopropanol | 0.40 g | C(C)(C)O | C3H8O
reactant | Acetone | CC(=O)C | C3H6O
catalyst | tetrabutylammonium hydrogen sulfate | 0.020 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 0.25 g | O | H2O
product | 2-cyclopentenyl isopropyl ether | 6% yield | C(C)(C)OC1C=CCC1 | C8H14O
